US08981085B2
N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-4-fluorobenzamide (0.24 g, 0.67 mmol) and (R)-tert-butyl piperidin-3-ylcarbamate (0.40 g, 2.01 mmol) in n-BuOH (2 mL) were stirred at 143° C. (bath) for 24 hours. The solvent was removed, and the residue was dissolved in ethyl acetate (20 mL), washed with water (10 mL), brine (10 mL) and dried over sodium sulfate. After removal of the solvent, the residue was purified by C-18 reverse phase flash chromatography (Biotage SP4 unit, C-18 25M column, 20-80% CH3CN/water gradient; 30 CV) to give a solid. The solid was dissolved in DCM (3 mL), and TFA (0.5 mL) was added. The mixture was stirred at room temperature for 1 hour. The solvent was removed. The residue was dissolved in DCM (1 mL), and 2N HCl in ether (3 mL) was added. The solid formed was collected by filtration to give (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-4-fluorobenzamide hydrochloride (0.14 g, 41% yield) as a solid. 1H NMR (400 MHz, (CD3)2SO) δ 11.94 (s, 1H), 9.95 (s, 1H), 8.26 (s, 1H), 8.17-8.9 (m, 6H), 7.65 (br s, 1H), 7.42 (t, 2H), 3.43-3.35 (m, 3.25-3.15 (m, 2H), 3.10-3.04 (m, 1H), 1.92-1.85 (m, 1H), 1.66-1.59 (m, 1H), 1.46-1.28 (m, 2H); LCMS (APCI+) m/z 432 (M+H)+.

reactant | N-(5-Bromo-4-fluoro-1H-pyrrolo[2,3-b]pyridin-3-yl)-4-fluorobenzamide | 0.67 mmol, 0.24 g | BrC=1C(=C2C(=NC1)NC=C2NC(C2=CC=C(C=C2)F)=O)F | C14H8BrF2N3O
reactant | (R)-tert-butyl piperidin-3-ylcarbamate | 2.01 mmol, 0.40 g | N1C[C@@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
product | (R)—N-(4-(3-aminopiperidin-1-yl)-5-bromo-1H-pyrrolo[2,3-b]pyridin-3-yl)-4-fluorobenzamide hydrochloride | 0.14 g, 41% yield | Cl.N[C@H]1CN(CCC1)C1=C2C(=NC=C1Br)NC=C2NC(C2=CC=C(C=C2)F)=O | InChI=1S/C19H19BrFN5O.ClH/c20-14-8-23-18-16(17(14)26-7-1-2-13(22)10-26)15(9-24-18)25-19(27)11-3-5-12(21)6-4-11;/h3-6,8-9,13H,1-2,7,10,22H2,(H,23,24)(H,25,27);1H/t13-;/m1./s1
